US07888364B2
To 24.9 g of 2-chloro-4-(methoxycarbonyl)benzoic acid and 2 mL of Sulfuric Acid in 350 mL of DCM was added isobutylene gas at −78° C. until the solvent was saturated and capped off securely. Let go several days at room temperature and re-cool to −78° C. before removing cap. Concentrate solvent, extract with Ethyl Acetate and bicarbonate, dry with Magnesium Sulfate, filter and concentrate to give 31.4 g of 1-tert-butyl 4-methyl 2-chloroterephthalate. 3.35 g of 1-tert-butyl 4-methyl 2-chloroterephthalate was hydrolyzed via Procedure M. 2.5 g of 4-(tert-butoxycarbonyl)-3-chlorobenzoic acid was was cooled to 0° C. in 25 mL of THF before a solution of 19.5 mL of 1M BH3-THF complex in THF was added dropwise. The ice bath was subsequently removed and the reaction was stirred at room temperature until reaction stalled out at ˜50% complete by TLC. The reaction is re-cooled to 0° C. and another 19.5 mL of BH3-THF is added dropwise before the ice bath is removed. Upon completion, the reaction is re-cooled to 0° C. and quenched with 3N HCl dropwise. The aqueous layer was extracted two times with Ethyl Acetate and the organic layer was then extracted once with bicarbonate solution and brine, dried over Magnesium Sulfate, filtered and concentrated to give tert-butyl 2-chloro-4-(hydroxymethyl)benzoate. 564 mg of tert-butyl 2-chloro-4-(hydroxymethyl)benzoate was cooled to 0° C. in 5 mL of DCM before adding 665 mg of Triphenylphosphine and 417 mg of NBS. Reaction was concentrated and directly purified via ISCO Combi-Flash to give pure tert-butyl 2-chloro-4-(hydroxymethyl)benzoate. 147 mg of tert-butyl 4-(bromomethyl)-2-chlorobenzoate was reacted with 2,2,2-trifluoroethanamine in DMSO via Procedure P. 141 mg of tert-butyl 2-chloro-4-((2,2,2-trifluoroethylamino)methyl)benzoate was treated with 4N HCl in Dioxane at 45° C. and concentrated to give 2-chloro-4-((2,2,2-trifluoroethylamino)methyl)benzoic acid. 50 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 75 mg of 2-chloro-4-((2,2,2-trifluoroethylamino)methyl)benzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to give pure 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((2,2,2-trifluoroethylamino)methyl)benzamide. MS (Q1) 454.6 (M)+.

reactant | 1-tert-butyl 4-methyl 2-chloroterephthalate | 3.35 g | ClC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C(=O)OC | C13H15ClO4
reactant | 4-(tert-butoxycarbonyl)-3-chlorobenzoic acid | 2.5 g | C(C)(C)(C)OC(=O)C1=C(C=C(C(=O)O)C=C1)Cl | C12H13ClO4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-chloro-4-(hydroxymethyl)benzoate | ClC1=C(C(=O)OC(C)(C)C)C=CC(=C1)CO | C12H15ClO3
